US07015246B2
16 g (51,6 mmol) of 3,5-dibromo-2-hydroxy-4-methoxybenzaldehyde (Biorg. Med. Chem. 1998, 6, 1153–1162) and 17.84 g (129 mmol) of potassium carbonate are initially introduced in DMF and 8.62 g (51.6 mmol) of ethyl bromoacetate are then added dropwise to the mixture. The latter is stirred at 80° C. for 6 hours and then poured onto ice water after having been cooled; the precipitate is filtered off with suction. The precipitate is washed with water and dried. 15.47 g (79%) of ethyl 5,7-dibromo-6-methoxy-1-benzofuran-2-carboxylate are obtained.

reactant | 3,5-dibromo-2-hydroxy-4-methoxybenzaldehyde | 51,6 mmol, 16 g | BrC=1C(=C(C=O)C=C(C1OC)Br)O | C8H6Br2O3
reactant | potassium carbonate | 129 mmol, 17.84 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 51.6 mmol, 8.62 g | BrCC(=O)OCC | C4H7BrO2
solvent | DMF | CN(C)C=O | C3H7NO
product | ethyl 5,7-dibromo-6-methoxy-1-benzofuran-2-carboxylate | 15.47 g, 79% | BrC=1C(=C(C2=C(C=C(O2)C(=O)OCC)C1)Br)OC | C12H10Br2O4
